US04683234
5-Ethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3-propionyl-3,4-dihydropyrimidine
1.00 g (3.30 millimole) of 5-Ethoxycarbonyl-2.6-dimethyl-4-(2-nitrophenyl)-dihydropyrimidine was dissolved in 15 ml of chloroform. To the solution, 2 ml of triethylamine (14.3 millimole) was added with stirring and then 0.4 g (4.32 millimole) of propionyl chloride was added dropwise. The mixture was stirred at room temperature for 40 minutes and concentrated under reduced pressure. The residue was purified on silica gel by column chromatography and recrystallized from benzene/hexane to obtain 0.69 g (58% yield) of title compound.

reactant | 5-Ethoxycarbonyl-2.6-dimethyl-4-(2-nitrophenyl)-dihydropyrimidine | 3.30 millimole, 1.00 g | C(C)OC(=O)C=1C(=NC(NC1C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C15H17N3O4
reactant | triethylamine | 14.3 millimole, 2 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 4.32 millimole, 0.4 g | C(CC)(=O)Cl | C3H5ClO
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Ethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3-propionyl-3,4-dihydropyrimidine | 0.69 g, 58% yield | C(C)OC(=O)C=1C(N(C(=NC1C)C)C(CC)=O)C1=C(C=CC=C1)[N+](=O)[O-] | C18H21N3O5
